US06087380
1-Cyclopropyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-Cyclopropyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 31% of theory, C30H33N6O3 (524.6) Rf value: 0.40 (silica gel; dichloromethane/methanol=5:1) ##EQU98##

reactant | 1-Cyclopropyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C2CC2)C=C1)CCC(=O)OCC | C30H29N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Cyclopropyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 31% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C2CC2)C=C1)CCC(=O)OCC | InChI=1S/C30H32N6O3.ClH/c1-2-39-28(37)16-17-35(23-6-4-3-5-7-23)30(38)21-10-15-26-25(18-21)34-27(36(26)24-13-14-24)19-33-22-11-8-20(9-12-22)29(31)32;/h3-12,15,18,24,33H,2,13-14,16-17,19H2,1H3,(H3,31,32);1H
